US20010016207A1
B. 4-(Piperazin-1-yl)-benzoic acid methyl ester
4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester (19.4 mmol) is dissolved in methanol (150 ml) and Pd/charcoal is added (0.6 g). The mixture is stirred in a hydrogen atmosphere until consumption has ceased. The catalyst is filtered off and the filtrate evaporated. The residue is suspended in diethylether/pentane and the solid filtered of and dried (vacuum). A powder with mp. 95-97° C. is obtained.

reactant | 4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester | 19.4 mmol | COC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O | C19H22N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd charcoal | [Pd].C
product | 4-(Piperazin-1-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H16N2O2
